US06908935B2
Step 2) Benzyl 4-benzyloxy-3-(4-methoxyphenyl)benzoate:
To a degassed solution of 4-methoxybenzeneboronic acid (5.0 g, 32.9 mmol), benzyl 4-benzyloxy-3-bromobenzoate (12.1 g, 30.5 mmol), and potassium carbonate (10.4 g, 76.2 mmol) in toluene/ethanol 2/1, (140 mL), Pd(PPh3)4 (400 mg, 1 mol %) was added and the mixture is degassed for further 5 minutes. The mixture is then refluxed for 12 hours. The mixture was partitioned between ethyl acetate and water and extracted. The organic solvent was dried over sodium sulphate, removed under reduced pressure, and the residue purified by column chromatography (9/1 DCM/hexane) to afford 0.73 g of pure title compound, 9.74 g of a 4:6 mixture of title compound and the corresponding ethyl ester, and 0.71 g of the ethyl ester derivative.

reactant | 4-methoxybenzeneboronic acid | 32.9 mmol, 5.0 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | benzyl 4-benzyloxy-3-bromobenzoate | 30.5 mmol, 12.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)Br | C21H17BrO3
reactant | potassium carbonate | 76.2 mmol, 10.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol | 140 mL | C1(=CC=CC=C1)C.C(C)O
catalyst | Pd(PPh3)4 | 400 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Benzyl 4-benzyloxy-3-(4-methoxyphenyl)benzoate | 0.73 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)C1=CC=C(C=C1)OC | C28H24O4
